US03935271
1.15 g (0.05 mol) of finely cut sodium are added to 30 g (0.5 mol) of absolute isopropanol in an atmosphere of nitrogen; the mixture is stirred at 60° for 16 hours in order to dissolve the sodium completely. After cooling to 20°, 12.2 g (0.05 mol) of 1,6-dibromohexane are added and the mixture is stirred at reflux temperature for 18 hours. The precipitated sodium bromide is filtered off, the excess isopropanol is removed and the filtrate is distilled under vacuum. The main fraction (6.0 g), having a B.P. of 96°-98°/15 mm, is chromatographed on 300 g of silica gel with hexane/ethyl acetate (99:1), whereby 1-bromo-6-isopropoxy-hexane is obtained as a colourless oil.

reactant | sodium | [Na] | Na
reactant | isopropanol | 0.5 mol, 30 g | C(C)(C)O | C3H8O
reactant | 1,6-dibromohexane | 0.05 mol, 12.2 g | BrCCCCCCBr | C6H12Br2
product | 1-bromo-6-isopropoxy-hexane | BrCCCCCCOC(C)C | C9H19BrO
